US08754103B2
In a 15 mL round-bottom flask 3-chloro-6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridine (100 mg), 4-hydroxypyridine (60 mg), and potassium carbonate (88 mg) were suspended in DMA (3 mL). The reaction mixture stirred at 150° C. for 6 h, concentrated, the residue subjected to gradient chromatography (MeOH/dichloromethane) to produce 3-(pyridin-4-yloxy)-6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridine as amber oil (28 mg, 24%).

reactant | 3-chloro-6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridine | 100 mg | ClC1=NN=C2N1C=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F | C13H7ClF3N3O
reactant | 4-hydroxypyridine | 60 mg | OC1=CC=NC=C1 | C5H5NO
reactant | potassium carbonate | 88 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
product | 3-(pyridin-4-yloxy)-6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridine | 28 mg, 24% | N1=CC=C(C=C1)OC1=NN=C2N1C=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F | C18H11F3N4O2
